US04720506
To 10 g (0.0517 mole) of ethyl 2-(4-aminophenyl)propionate was added 50 ml of ethyl acetate with stirring, and to this solution, a mixed solution of 5.81 g of acetic anhydride and 10 ml of ethyl acetate was added dropwise and was stirred for 3 hours. After completion of the reaction, the reaction mixture was washed with a saturated solution of sodium bicarbonate and with a saturated solution of sodium chloride. After the ethyl acetate layer was dried over anhydrous magnesium sulfate, the ethyl acetate was distilled off under reduced pressure. The residue was recrystallized from ethyl acetate-n-hexane to give 10.3 g of ethyl 2-(4-acetylaminophenyl)propionate (Yield: 85%). M.P. 94.5°-95.5° C.

reactant | ethyl 2-(4-aminophenyl)propionate | 0.0517 mole, 10 g | NC1=CC=C(C=C1)C(C(=O)OCC)C | C11H15NO2
reactant | acetic anhydride | 5.81 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(4-acetylaminophenyl)propionate | 10.3 g, Yield: 85% | C(C)(=O)NC1=CC=C(C=C1)C(C(=O)OCC)C | C13H17NO3
